US06825208B2
6′-Formyl-3′-hydroxy-2′,4′-dimethoxy-biphenyl-4-carboxylic acid was prepared from 4-acetoxy-2-bromo-3,5-dimethoxybenzaldehyde (Example 162, step a) and 4-carboxyphenyl boronic acid using the protocol described in Example 145, step a. Mass Spectrum 288 (M+1).

reactant | 4-acetoxy-2-bromo-3,5-dimethoxybenzaldehyde | C(C)(=O)OC1=C(C(=C(C=O)C=C1OC)Br)OC | C11H11BrO5
reactant | 4-carboxyphenyl boronic acid | C(=O)(O)C1=CC=C(C=C1)B(O)O | C7H7BO4
product | 6′-Formyl-3′-hydroxy-2′,4′-dimethoxy-biphenyl-4-carboxylic acid | C(=O)C1=CC(=C(C(=C1C1=CC=C(C=C1)C(=O)O)OC)O)OC | C16H14O6
